US06093818
After 4.345 g of 3, 3, 3-trifluoro-2-oxopropanal 1-(4-chloro-2-fluoro-5-isopropoxyphenylhydrazone) was dissolved in 20 mL of pyridine, 2.1 mL of ethyl cyanoacetate was added to the pyridine solution, which was followed by stirring for 4 hours at 120° C. After cooling to room temperature, the reaction solution was poured into 3N-hydrochloric acid and extracted with diethyl ether. After the organic layer was washed with aqueous saturated sodium bicarbonate and concentrated, the residue was subjected to silica gel column chromatography (eluent: ethyl acetate/hexane=2/8) to afford 2.858 g of 2-(4-chloro-2-fluoro-5-isopropoxyphenyl)-4-cyano-5-trifluoromethylpyridazin-3-one (The present compound 1-5).

reactant | 3, 3, 3-trifluoro-2-oxopropanal 1-(4-chloro-2-fluoro-5-isopropoxyphenylhydrazone) | 4.345 g | ClC1=CC(=C(C=C1OC(C)C)NN=CC(C(F)(F)F)=O)F | C12H11ClF4N2O2
reactant | ethyl cyanoacetate | 2.1 mL | C(#N)CC(=O)OCC | C5H7NO2
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 2-(4-chloro-2-fluoro-5-isopropoxyphenyl)-4-cyano-5-trifluoromethylpyridazin-3-one | 2.858 g | ClC1=CC(=C(C=C1OC(C)C)N1N=CC(=C(C1=O)C#N)C(F)(F)F)F | C15H10ClF4N3O2
